US04079059
A mixture of 2,4-dimethyl-1,5-di-(4-methylphenyl)-3-pentanone (29.4 g., 0.1 mole) and 4-aminomethylpiperidine (34.2 g., 0.3 mole) in 250 ml. ethanol is hydrogenated with PtO2 at room temperature and 40 psi hydrogen pressure. The 2.5 g. platinum catalyst is filtered off and the ethanol removed under reduced pressure. The residual oil is dissolved in ether and the ether solution washed several times with water to remove the excess 4-aminomethylpiperidine. The ether extracts are dried over anhydrous sodium sulfate and concentrated under vacuum to leave 4-[2,4-dimethyl-1,5-di-(4-methylphenyl)-3-pentylaminomethyl]piperidine.

reactant | 2,4-dimethyl-1,5-di-(4-methylphenyl)-3-pentanone | 0.1 mole, 29.4 g | CC(CC1=CC=C(C=C1)C)C(C(CC1=CC=C(C=C1)C)C)=O | C21H26O
reactant | 4-aminomethylpiperidine | 0.3 mole, 34.2 g | NCC1CCNCC1 | C6H14N2
reactant | hydrogen | [H][H] | H2
catalyst | PtO2 | O=[Pt]=O
solvent | ethanol | C(C)O | C2H6O
product | 4-[2,4-dimethyl-1,5-di-(4-methylphenyl)-3-pentylaminomethyl]piperidine | CC(C)C(C(CC1=CC=C(C=C1)C)C)NC(C1=CC=C(C=C1)C)C1CCNCC1 | C27H40N2
